US06169090A
2-Acetyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid (3-methylpyridin-4-yl)amide
2-(1,1-Dimethoxyethyl)-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid (3-methylpyridin-4-yl)amide (0.15 g), trifluoroacetic acid (0.23 ml) and water (0.50 ml) were stirred at 50° C. in chloroform (20 ml) for 4 h. The mixture was cooled and diluted with dichloromethane (30 ml), washed with saturated sodium bicarbonate solution (30 ml) then water (30 ml), dried over magnesium sulfate, filtered and the solvent removed in vacuo to give the title compound (0.11 g) as a cream solid.

reactant | 2-(1,1-Dimethoxyethyl)-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid (3-methylpyridin-4-yl)amide | 0.15 g | CC=1C=NC=CC1NC(=O)C=1C2=C(C(=NC1)OC)OC(=C2)C(C)(OC)OC | C19H21N3O5
reactant | trifluoroacetic acid | 0.23 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 0.50 ml | O | H2O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-Acetyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid (3-methylpyridin-4-yl)amide | 0.11 g | CC=1C=NC=CC1NC(=O)C=1C2=C(C(=NC1)OC)OC(=C2)C(C)=O | C17H15N3O4
